US07612075B2
B. 4-[2-(5-Chloro-thiophen-2-yl)-ethenesulfonyl]-6-(R)-hydroxymethyl-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-piperazin-2-one.
Glacial acetic acid (3 mL, 0.046 mmol) and tetrabutylammonium fluoride (92 mL, 0.092 mmol) is added to a solution of 6-(R)-(tert-butyl-dimethyl-silanyloxymethyl)-4-[2-(5-chloro-thiophen-2-yl)-ethenesulfonyl]-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-piperazin-2-one (0.019 g, 0.033 mmol) in THF (0.5 mL). The resulting solution is stirred for 4 h then concentrated in vacuo. The crude product is purified by RP-HPLC eluting in a gradient of 10% CH3CN/H2O (0.1% TFA) to 100% CH3CN and the appropriate product fractions are lyophilized to provide the title compound (0.009 g, 0.016 mmol) as a white solid. 1H NMR (DMSO-d6, 300 MHz) δ14.50 (bs, 1H), 12.60 (bs, 1H), 9.18 (s, 1H), 8.38 (d, 1H), 7.89 (d, 1H), 7.61 (d, 1H), 7.50 (d, 1H), 7.21 (d, 1H), 7.08 (d, 1H), 6.90 (s, 1H), 5.03 (s, 2H), 4.63 (d, 2H), 3.70-3.90 (AB, 2H), 3.75 (m, 1H), 3.21 (m, 2H). Ion spray MS, [M+H]+467, 469, Cl pattern.

reactant | acetic acid | 0.046 mmol, 3 mL | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 0.092 mmol, 92 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 6-(R)-(tert-butyl-dimethyl-silanyloxymethyl)-4-[2-(5-chloro-thiophen-2-yl)-ethenesulfonyl]-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-piperazin-2-one | 0.033 mmol, 0.019 g | C(C)(C)(C)[SiH2]OC([C@H]1CN(CC(N1CC1=CC=2C=NC=CC2N1)=O)S(=O)(=O)C=CC=1SC(=CC1)Cl)(C)C | C25H33ClN4O4S2Si
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-[2-(5-Chloro-thiophen-2-yl)-ethenesulfonyl]-6-(R)-hydroxymethyl-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-piperazin-2-one | 0.016 mmol, 0.009 g | ClC1=CC=C(S1)C=CS(=O)(=O)N1CC(N([C@H](C1)CO)CC1=CC=2C=NC=CC2N1)=O | C19H19ClN4O4S2
